US06624158B2
[Cyclopentyl(isopropyl)amino]acetonitrile
Hydroxyacetonitrile (8.2 ml of a 70% w/w solution in water, 0.1 mol) was added to a solution of N-isopropylcyclopentanamine (11.43 g, 0.09 mol) (Preparation 47) in ethanol (60 ml). The reaction mixture was heated under reflux for 3 hours, allowed to cool and evaporated under reduced pressure. The residue was purified by chromatography on silica gel eluting with dichloromethane:methanol (98:2, by volume) to give the title compound (14.1 g) as a clear oil.

reactant | Hydroxyacetonitrile | OCC#N | C2H3NO
reactant | N-isopropylcyclopentanamine | 0.09 mol, 11.43 g | C(C)(C)NC1CCCC1 | C8H17N
solvent | water | O | H2O
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | [Cyclopentyl(isopropyl)amino]acetonitrile | 14.1 g | C1(CCCC1)N(C(C)C)CC#N | C10H18N2
